US08076329B2
A mixture of 1-(3-phenoxypropyl)piperidine, oxalate (0.2 g), 5-aminopentanoic acid (0.076 g) and polyphosphoric acid (2 g) is stirred at a temperature close to 100° C. for one hour. The mixture is cooled to room temperature, diluted with water (25 mL), made alkaline through addition of concentrated aqueous sodium hydroxide solution with external cooling and extracted twice with ethyl acetate (25 mL). The organic layers are pooled, washed with a saturated aqueous solution of sodium chloride (25 mL), dried over magnesium sulphate and purified by chromatography over silica gel. Fractions containing the expected product are pooled, concentrated under reduced pressure to give 0.172 g of 6-[4-(3-piperidinopropoxy)phenyl]-2,3,4,5-tetrahydropyridine which is dissolved in ethanol (2 mL). A solution of oxalic acid (0.104 g) in ethanol (0.5 mL) is added. The precipitate that appears on standing is filtered, rinsed with ethanol and dried to afford 200 mg of 6-[4-(3-piperidinopropoxy)phenyl]-2,3,4,5-tetrahydropyridine, oxalate as a white powder melting at 104° C.

reactant | 1-(3-phenoxypropyl)piperidine | O(C1=CC=CC=C1)CCCN1CCCCC1 | C14H21NO
reactant | oxalate | 0.2 g | C(C(=O)[O-])(=O)[O-]
reactant | 5-aminopentanoic acid | 0.076 g | NCCCCC(=O)O | C5H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 25 mL | O | H2O
product | 6-[4-(3-piperidinopropoxy)phenyl]-2,3,4,5-tetrahydropyridine | 0.172 g | N1(CCCCC1)CCCOC1=CC=C(C=C1)C=1CCCCN1 | C19H28N2O
